US05281571
A solution of 3.16 g (7.9 mmole) 4-bromo-3-(2-fluoro-5-methoxy-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole in 59 mL acetic acid was heated to 80° C. under a nitrogen atmosphere. The heat and nitrogen were removed and 1.76 g (31.6 mmole) iron powder was added in 3 portions over 5 min. The solution was stirred at 80° C. for an additional 30 min. The solution was cooled and filtered through Celite®. The filtrate was diluted with 100 mL water and extracted three times with diethyl ether. The ether extracts were washed with brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residue was purified chromatographically using 40% ethyl acetate in hexane as the eluent to give 2.4 g (83%) of 4-(4-bromo-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-5-fluoro-2-methoxy-benzeneamine as a white solid, mp 85°-86° C.

reactant | 4-bromo-3-(2-fluoro-5-methoxy-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 7.9 mmole, 3.16 g | BrC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)OC)[N+](=O)[O-])F | C12H8BrF4N3O3
solvent | acetic acid | 59 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 31.6 mmole, 1.76 g | [Fe] | Fe
product | 4-(4-bromo-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-5-fluoro-2-methoxy-benzeneamine | 2.4 g, 83% | BrC=1C(=NN(C1C(F)(F)F)C)C1=CC(=C(C=C1F)N)OC | C12H10BrF4N3O
